US07781187B2
General Synthesis of 2-thienylmethyltributylphosphonium bromide
2-bromomethylthiophene (72 g, 0.41 mol) was dissolved into toluene (400 mL). To this solution, tributylphosphine (82 g, 0.41 mol) was added. This mixture was heated to 90° C. overnight. This mixture was cooled to room temperature and the solid was filtered. The solid was washed by ethyl ether (200 mL) to give 142.3 grams, (92.3% yield).

reactant | 2-bromomethylthiophene | 0.41 mol, 72 g | BrCC=1SC=CC1 | C5H5BrS
reactant | tributylphosphine | 0.41 mol, 82 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 2-thienylmethyltributylphosphonium bromide | 92.3% yield | [Br-].S1C(=CC=C1)C[P+](CCCC)(CCCC)CCCC | InChI=1S/C17H32PS.BrH/c1-4-7-12-18(13-8-5-2,14-9-6-3)16-17-11-10-15-19-17;/h10-11,15H,4-9,12-14,16H2,1-3H3;1H/q+1;/p-1
